US07709503B2
Intermediate 121: Methyl 6-aminopyridine-2-carboxylate
6-Aminopyridine-2-carboxylic acid (5.0 g, 36 mmol) was dissolved in 50 ml of MeOH. To this was added acetyl chloride (9.0 ml, 126 mmol) in 50 ml of MeOH. The reaction was heated to reflux overnight. Concentrate to an orange oil and partition with EtOAc and water. The organic portions were washed with brine, dried (MgSO4) and concentrated to a yellow solid.

reactant | 6-Aminopyridine-2-carboxylic acid | 36 mmol, 5.0 g | NC1=CC=CC(=N1)C(=O)O | C6H6N2O2
reactant | acetyl chloride | 126 mmol, 9.0 ml | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | 50 ml | CO | CH4O
solvent | MeOH | 50 ml | CO | CH4O
product | Methyl 6-aminopyridine-2-carboxylate | NC1=CC=CC(=N1)C(=O)OC | C7H8N2O2
